US07521462B2
N-(3-Methylbutyl)-N-[(benzofuran-2-yl)methyl]piperidin-4-amine (0.09 g, 0.28 mmol) is dissolved in methanol (2 ml). 2.0 M HCl in diethyl ether (0.29 ml, 0.57 mmol) is added and the reaction stirred for 2 hours. The reaction is concentrated and the solid dried in a vacuum (60° C.) overnight to yield (0.77 g) of N-(3-methylbutyl)-N-[(benzofuran-2-yl)methyl]piperidin-4-amine dihydrochloride: mass spectrum (ion spray): m/z=301 (M+1).

reactant | N-(3-Methylbutyl)-N-[(benzofuran-2-yl)methyl]piperidin-4-amine | 0.28 mmol, 0.09 g | CC(CCN(C1CCNCC1)CC=1OC2=C(C1)C=CC=C2)C | C19H28N2O
reactant | HCl | 2.0 M | Cl | ClH
reactant | diethyl ether | 0.57 mmol, 0.29 ml | C(C)OCC | C4H10O
solvent | methanol | 2 ml | CO | CH4O
product | N-(3-methylbutyl)-N-[(benzofuran-2-yl)methyl]piperidin-4-amine dihydrochloride | 0.77 g | Cl.Cl.CC(CCN(C1CCNCC1)CC=1OC2=C(C1)C=CC=C2)C | InChI=1S/C19H28N2O.2ClH/c1-15(2)9-12-21(17-7-10-20-11-8-17)14-18-13-16-5-3-4-6-19(16)22-18;;/h3-6,13,15,17,20H,7-12,14H2,1-2H3;2*1H
